US05464781
A mixture of 2-chloro-6-trifluoromethylpyridine (20.0 g), cuprous chloride (0.2 g) and ammonia (specific gravity 0.88, 75 ml) was heated at 170° C. in a pressure vessel for 18 hours. After cooling to ambient temperature, the mixture was extracted with dichloromethane (300 ml). The organic extract was dried and evaporated to give 6-trifluoromethylpyridin-2-amine, m.p. 74°-79° C.

reactant | 2-chloro-6-trifluoromethylpyridine | 20.0 g | ClC1=NC(=CC=C1)C(F)(F)F | C6H3ClF3N
reactant | ammonia | 75 ml | N | H3N
product | 6-trifluoromethylpyridin-2-amine | FC(C1=CC=CC(=N1)N)(F)F | C6H5F3N2
